US06124298
N,N'-bis(1,3-dihydroxyprop-2-yl)pyrazine-2,3-dicarboxamide
Methyl pyrazine-2,3-dicarboxylate (2 g, 10.2 mmol) was dissolved in EtOH (5 mL). 2-Amino-1,3-propanediol (1.86 g, 20.4 mmol) was added and the mixture was heated under reflux for 4 h. After cooling the solvent was evaporated and the residue was purified by silica gel chromatography (CHCl3 /MeOH, 8:2) to afford the title compound (2 g, 62.5%).

reactant | Methyl pyrazine-2,3-dicarboxylate | 10.2 mmol, 2 g | N1=C(C(=NC=C1)C(=O)[O-])C(=O)OC
reactant | 2-Amino-1,3-propanediol | 20.4 mmol, 1.86 g | NC(CO)CO | C3H9NO2
solvent | EtOH | 5 mL | CCO | C2H6O
product | N,N'-bis(1,3-dihydroxyprop-2-yl)pyrazine-2,3-dicarboxamide | 2 g, 62.5% | OCC(CO)NC(=O)C1=NC=CN=C1C(=O)NC(CO)CO | C12H18N4O6
